US06265411B1
Sodium hydride (53 mg, 1.33 mmol) was added to a solution of 6-trifluoromethyloxindole (200 mg, 0.995 mmol), (prepared as described for the starting material in Example 49), in dry, degassed DMF and the suspension stirred for 15 minutes at ambient temperature. A solution of 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (111 mg, 0.332 mmol), (prepared as described for the starting material in Example 5), in a dry, degassed mixture of DMF (5 ml) and THF (2 ml) was added dropwise and the reaction mixture was heated at 60° C. for 3 hours. The mixture was allowed to cool, the DMF was removed by evaporation, 1M hydrochloric acid was added until the aqueous phase was pH8 and ethyl acetate was added to dissolve the resulting precipitate. The organic phase was separated and the aqueous phase re-extracted with ethyl acetate (50 ml×3). The ethyl acetate fractions were combined, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by flash column chromatography eluting with methylene chloride/methanol (10/1). The purified product was triturated with boiling ether and collected by filtration to give 6-methoxy-7-(3-morpholinopropoxy)-4-(6-trifluoromethyloxindol-3-yl)quinazoline (51 mg, 31%).

reactant | Sodium hydride | 1.33 mmol, 53 mg | [H-].[Na+]
reactant | 6-trifluoromethyloxindole | 0.995 mmol, 200 mg | FC(C1=CC=C2CC(NC2=C1)=O)(F)F | C9H6F3NO
reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.332 mmol, 111 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
product | 6-methoxy-7-(3-morpholinopropoxy)-4-(6-trifluoromethyloxindol-3-yl)quinazoline | 51 mg, 31% | COC=1C=C2C(=NC=NC2=CC1OCCCN1CCOCC1)C1C(NC2=CC(=CC=C12)C(F)(F)F)=O | C25H25F3N4O4
